US07220858B2
One mole equivalent (250 g) of 1(2H)-phthalazinone and 3.8 mole equivalents (775 g) of phosphorus oxychloride were charged into a 3-L, 3-necked flask fitted with a temperature probe and condenser. The slurry was stirred and heated to 80° C., maintained at that temperature for 30 minutes, and then the heat source was removed. Thin layer chromatographic analysis indicated that conversion to 1-chlorophthalazine was complete. The mixture was allowed to cool to room temperature, and 1.6 L of hexanes was added. The resulting slurry was stirred for several minutes, and the hexane layer was decanted. Addition of hexanes and decantation was repeated two more times. Then 1.6 L of tetrahydrofuran was added; as the solution was stirred, an off-white precipitate formed. The solid was isolated by filtration and washed with 250 mL of cold tetrahydrofuran to afford an 85–100% yield of 1-chlorophthalazin, the desired product, as an off-white powder that could be dried and characterized.

reactant | 1(2H)-phthalazinone | 250 g | C1(NN=CC2=CC=CC=C12)=O | C8H6N2O
reactant | phosphorus oxychloride | 775 g | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-chlorophthalazin | 85–100% yield | ClC1=NN=CC2=CC=CC=C12 | C8H5ClN2
